US07745641B2
In a similar manner to Step 1 of Example 289, 4-hydroxy-5-methoxy-7-iodoisoindolinone (250 mg, 0.819 mmol) was dissolved in dichloromethane (5 mL), and the solution was treated with triethylamine (0.685 mL, 4.91 mmol) and methanesulfonyl chloride (0.190 mL, 2.45 mmol). The mixture was added with water and hexane. The precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4-methanesulfonyloxy-5-methoxy-7-iodoisoindolinone (284 mg, yield 91%).

reactant | 4-hydroxy-5-methoxy-7-iodoisoindolinone | 0.819 mmol, 250 mg | OC1=C2CNC(C2=C(C=C1OC)I)=O | C9H8INO3
reactant | triethylamine | 4.91 mmol, 0.685 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.45 mmol, 0.190 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 4-methanesulfonyloxy-5-methoxy-7-iodoisoindolinone | 284 mg, yield 91% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)I)=O | C10H10INO5S
